US05776959
Preparation of Ethyl 2-cyanomethyl-2-ethylbutanoate
A solution of ethyl 2-ethylbutyrate (21.60 g, 150 mmol) in THF (25 mL) was added dropwise to a solution of lithium diisopropylamide prepared by treating diisopropylamine (16.67 g, 165 mmol) in dry THF (150 mL) with butyllithium in hexanes (2.5M, 66 mL, 165 mmol) at -78° C. for 1 h in a nitrogen atmosphere. The resulting mixture was stirred at -78° C. for 1 h, then a solution of bromoacetonitrile (21.60 g, 180 mmol) in THF (50 mL) was introduced slowly over a period of 30 minutes (the reaction mixture starts getting darker as the addition progresses). The resulting dark mixture was stirred overnight (ca. 16 h) and allowed to warm from -78° C. to room temperature. The reaction was quenched by addition of HCl (1N, 250 mL) at 0° C. The layers were separated, and the aqueous phase was further extracted with ether (3×100 mL). The combined organic extract was washed sequentially with 75 mL portions of saturated NaHCO3, water (several times), and brine, and dried over MgSO4. The solvent was removed in vacuo to give 27.77 g of dark colored liquid. After two vacuum distillations, the nitrile (12.35 g, 45%) was obtained as a colorless liquid: bp 84°-85° C. (1.3 mmHg). Analytical sample was prepared by column chromatography over silica gel (hexanes-EtOAc, 19:1) followed by bulb-to-bulb distillation (pot temp. 80° C. (1 mmHg)).

reactant | ethyl 2-ethylbutyrate | 150 mmol, 21.60 g | C(C)C(C(=O)OCC)CC | C8H16O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 165 mmol, 16.67 g | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | bromoacetonitrile | 180 mmol, 21.60 g | BrCC#N | C2H2BrN
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 2-cyanomethyl-2-ethylbutanoate | 27.77 g | C(#N)CC(C(=O)OCC)(CC)CC | C10H17NO2
